Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
epigastric pain, SOB, chest pain, and diarrhea
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
patient endorses 3 days of epigastric abdominal pain. He also 
has a history of having a "heart problem," diagnosed in ___, 
for which he uses nitroglycerin and other "heart attack 
medications". It appears that this chest pain is different than 
the abdominal pain which he has been suffering from the last few 
days. During these last 3 days, he indicates that he has pain in 
his upper abdomen/epigastric area. He notes he has had diarrhea 
during this time. He states he believes his current symptoms are 
due to a "stomach problem".
 
Past Medical History:
- fxnal dyspepsia
- GERD
- refractive ambylopia
- HTN
- COPD
- BPH
- heart disease (unstable angina, takes Nitro, has had angina 
for
___ years)
(-) fecal occult blood test in ___ at ___

 
Social History:
___
Family History:
Mother with hypertension
 
Physical Exam:
Exam on Admission:
___ 0201 Temp: 98.1 PO BP: 148/71 HR: 49 RR: 18 O2 sat: 99%
O2 delivery: Ra 
GEN: Well appearing, NAD
HEENT: Conjunctiva clear, PERRL, MMM
NECK: No JVD. 
LUNGS: CTAB
HEART: RRR, nl S1, S2. No m/r/g.
ABD: Mild epigastric tenderness to palpation, normal bowel
sounds. 
EXTREMITIES: No edema. WWP.
SKIN: No rashes.
NEURO: Alert. Unable to assess orientation.

Exam on Discharge:
Temp: 97.5 
BP: 106/64 
HR: 54 
RR: 18 
O2 sat: 99% on RA

GEN: alert and laying in bed 
HEENT: dried blood on teeth, active bleeding from gums
PULM: LCTAB, no increased WOB, oxygenating well on RA
CARD: bradycardic, regular rhythm, no murmurs rubs or gallops
noted
ABD: mildly tender in the epigastric region to deep palpation,
negative ___ sign 
EXT: no cyanosis, clubbing, or edema
NEURO: Alert and conversational, oriented and asking good
questions about his care plan
 
Pertinent Results:
LABS:

___ 06:56AM BLOOD WBC-7.2 RBC-3.75* Hgb-12.5* Hct-36.3* 
MCV-97 MCH-33.3* MCHC-34.4 RDW-12.5 RDWSD-44.0 Plt ___
___ 06:56AM BLOOD Glucose-82 UreaN-21* Creat-0.9 Na-142 
K-3.8 Cl-103 HCO3-25 AnGap-14
___ 06:56AM BLOOD ALT-31 AST-18 LD(LDH)-152 AlkPhos-106 
TotBili-0.6
___ 03:47AM BLOOD cTropnT-<0.01
___ 09:13PM BLOOD cTropnT-<0.01
___ 06:56AM BLOOD Albumin-3.8 Calcium-8.8 Phos-3.5 Mg-1.7
___ 09:13PM BLOOD calTIBC-221* VitB12-676 Folate-19 
Ferritn-159 TRF-170*

MICRO: NONE
IMAGING: NONE
 
Brief Hospital Course:
Mr. ___ is a ___ year old ___ speaking male with past 
medical history significant for hypertension, hyperlipidemia, 
and angina who is presenting with epigastric abdominal pain, 
chest pain, and anemia.  Per patient and his family, he has had 
several months of black diarrhea. He also had a hemoglobin of 10 
on admission, while hemoglobin was noted to be 12 in ___ of 
this year. He also endorsed having blood in his mouth for 
several months. Due to the concern for a potential upper GI 
bleed, he was admitted to the medicine service. During his 
admission, his pain was well controlled with Tylenol and 
tramadol. He also had a questionable history of unstable angina, 
which per family, occurred both at rest and on exertion, however 
he did not experience chest pain during this admission. To 
evaluate further, he underwent a stress echocardiogram which 
demonstrated EF > 55% at rest and no evidence of ischemia at 
rest or during exercise. His hemoglobin normalized on its own to 
12.5 and he did not have any bloody or black tarry stools during 
his admission. Given the stability of his symptoms, the GI team 
recommended that he follow up with his primary care team for 
possible endoscopy in the outpatient setting. 

ACUTE OR ACTIVE ISSUES
========================

# Normocytic Anemia
He reported  black stools with occasional diarrhea at home for 
several months. Hemoglobin was noted to be 12 in ___, but 
was 10 on admission, prompting concern for possible GI bleed. 
FOBT and guiac studies were negative. Iron studies were 
suggestive of anemia of chronic disease. B12, folate, and 
reticulocyte levels were within normal limits. He did not have 
any bloody or dark tarry stools during this admission. There was 
some concern that he may be having blood in his mouth, however 
on exam, it seemed that this may be due to gum disease from poor 
dentition. His hemoglobin normalized during the hospitalization 
to 12.5 at discharge.  

# Epigastric Abdominal Pain
Mr. ___ primary complaint was epigastric abdominal pain
for last 3 days associated with diarrhea.  On exam, he had point 
tenderness to deep palpation at the epigastrum. Negative 
___ sign and right upper quadrant ultrasound was within 
normal limits. His liver function tests were also within normal 
limits. He was previously treated for H. Pylori however it was 
not clear if he had ever been tested for cure. He did not have 
any blood in his stool or hemoptysis or coffee ground emesis 
during his hospitalization. His pain was well controlled with 
PPI, tramadol and tylenol. The pain self-resolved and ___ was 
able to tolerate a full diet.  The GI team was consulted and 
they recommended that based on the significant improvement in 
his pain and his stable hemoglobin that an EGD could be 
considered by his PCP in the outpatient setting. 

# Chest Pain
Per his daughter-in-law, Mr. ___ chest pain occurring at rest 
or with exercise, suggestive of
unstable angina. He came into the hospital with nitroglycerin, 
which he uses periodically for chest pain. EKG demonstrated J 
point elevation and evidence of possible anterior coronary 
disease. It was difficult to elicit a clear cardiac history, 
however, Mr. ___ reported that he did not experience any chest 
pain during this hospitalization. He underwent an exercise 
stress echocardiogram which demonstrated no evidence of ischemic 
disease and an ejection fraction of 55% at rest.  He was 
continued on aspirin and statin at this time. 

CHRONIC ISSUES:
===============
# HTN
He was continued on his home losartan. 

# HLD
He was continued on his home atorvastatin. 

# GERD
He was started on IV pantoprazole which was converted to PO 
pantoprazole for home. 

TRANSITIONAL ISSUES
=========================

New or Changed Medications
===========================

-started on pantoprazole 40mg every 12 hours. 

-stopped omeprazole 20mg by mouth twice per day

[] The GI team recommended that if his symptoms persist or 
worsen, an outpatient endoscopy may be helpful in identifying 
the etiology of his epigastric pain.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 40 mg PO QPM 
3. Omeprazole 20 mg PO BID 
4. Tamsulosin 0.4 mg PO QHS 
5. Nitroglycerin SL 0.3 mg SL PRN chest pain 
6. Tiotropium Bromide 1 CAP IH DAILY 
7. Losartan Potassium 100 mg PO DAILY 
8. TraZODone 25 mg PO QHS:PRN unknown 
9. Mirtazapine 15 mg PO QHS 
10. Beclomethasone Dipro. AQ (Nasal) 80 mcg/actuation nasal BID 
COPD 

 
Discharge Medications:
1.  Pantoprazole 40 mg PO Q12H  
2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 40 mg PO QPM  
4.  Beclomethasone Dipro. AQ (Nasal) 80 mcg/actuation nasal BID 
COPD  
5.  Losartan Potassium 100 mg PO DAILY  
6.  Mirtazapine 15 mg PO QHS  
7.  Nitroglycerin SL 0.3 mg SL PRN chest pain  
8.  Tamsulosin 0.4 mg PO QHS  
9.  Tiotropium Bromide 1 CAP IH DAILY  
10.  TraZODone 25 mg PO QHS:PRN unknown  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Epigastric pain 
Anemia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___.

Why did you come to the hospital?
 You came to the hospital initially because you were having 
abdominal pain and chest pain.  

What happened during your hospitalization?
 During your stay, you were given pain medication to better 
control your symptoms. You also underwent an imaging study to 
test how your heart functions during exercise. Your heart looked 
healthy. You were also seen by the GI team for your diarrhea and 
they determined that you did not need more studies at this time. 
Your diarrhea got better on its own. 

What should you do when you leave the hospital?
You should follow up with your primary care doctor at ___ 
___. 

Sincerely,
Your ___ Care Team 
 
Followup Instructions:
___